US06448242B1
Preparation of 1,3-bis[4-[4-(3,4,5-trimethoxyphenyl)benzoyl]-1-piperazinyl]propane dihydrochloride
Concentrated hydrochloric acid (0.015 ml; 0.18 mmol) was added to a solution of 1,3-bis[4-[4-(3,4,5-trimethoxyphenyl)benzoyl]-1-piperazinyl]propane (43 mg; 0.050 mmol) in ethanol (5 ml) and the reaction mixture was concentrated under reduced pressure. After a process of adding ethanol (10 ml) to the residue and concentrating the mixture under reduced pressure was performed twice, the resultant concentrated residue was recrystallized from methanoldiethyl ether to obtain the title compound as a colorless crystalline powder.

reactant | hydrochloric acid | 0.18 mmol, 0.015 ml | Cl | ClH
reactant | 1,3-bis[4-[4-(3,4,5-trimethoxyphenyl)benzoyl]-1-piperazinyl]propane | 0.050 mmol, 43 mg | COC=1C=C(C=C(C1OC)OC)C1=CC=C(C(=O)N2CCN(CC2)CCCN2CCN(CC2)C(C2=CC=C(C=C2)C2=CC(=C(C(=C2)OC)OC)OC)=O)C=C1 | C43H52N4O8
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1,3-bis[4-[4-(3,4,5-trimethoxyphenyl)benzoyl]-1-piperazinyl]propane dihydrochloride | Cl.Cl.COC=1C=C(C=C(C1OC)OC)C1=CC=C(C(=O)N2CCN(CC2)CCCN2CCN(CC2)C(C2=CC=C(C=C2)C2=CC(=C(C(=C2)OC)OC)OC)=O)C=C1 | InChI=1S/C43H52N4O8.2ClH/c1-50-36-26-34(27-37(51-2)40(36)54-5)30-8-12-32(13-9-30)42(48)46-22-18-44(19-23-46)16-7-17-45-20-24-47(25-21-45)43(49)33-14-10-31(11-15-33)35-28-38(52-3)41(55-6)39(29-35)53-4;;/h8-15,26-29H,7,16-25H2,1-6H3;2*1H
